US05189036
[1-(4-Fluorobenzoyl)-4-piperidinyl]carbamic acid, 2-(trimethylsilyl)ethyl ester
1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid (10.05 g, 40.0 mmol) and triethylamine (4.1 g, 40 mmol) are combined in toluene (50 mL) under a nitrogen atmosphere. Diphenylphosphoryl azide (11.0 g, 40.0 mmol) is added, and the mixture is heated at 80° C. for 2 hr. 2-(Trimethylsilyl)ethanol (9.49 g, 80.2 mmol) is added, and the mixture is stirred at 80° C. for 2 hr, and room temperature for 2 hr. The mixture is diluted with methylene chloride, washed twice with 1N HCl, twice with 0.5N sodium hydroxide, dried over magnesium sulfate, and evaporated. The residue is recrystallized from ether-hexane to afford the title compound.

reactant | 1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid | 40.0 mmol, 10.05 g | FC1=CC=C(C(=O)N2CCC(CC2)C(=O)O)C=C1 | C13H14FNO3
reactant | triethylamine | 40 mmol, 4.1 g | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphoryl azide | 40.0 mmol, 11.0 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-(Trimethylsilyl)ethanol | 80.2 mmol, 9.49 g | C[Si](CCO)(C)C | C5H14OSi
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1-(4-Fluorobenzoyl)-4-piperidinyl]carbamic acid, 2-(trimethylsilyl)ethyl ester | FC1=CC=C(C(=O)N2CCC(CC2)NC(OCC[Si](C)(C)C)=O)C=C1 | C18H27FN2O3Si
